### PR TITLE
refactor: replace `Iter(M).size` with `Iter(M).count`

### PR DESCRIPTION
**Pull request by datokrat**
This PR replaces `Iter(M).size` with the `Iter(M).count`. While the former used a special `IteratorSize` type class, the latter relies on `IteratorLoop`. The `IteratorSize` class is deprecated. The PR also renames lemmas about ranges be replacing `_Rcc` with `_rcc`, `_Rco` with `_roo` (and so on) in names, in order to be more consistent with the naming convention.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ✅ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) has successfully built against this PR. (2025-10-25 09:58:34) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18800925302)
- ✅ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) has successfully built against this PR. (2025-10-29 13:33:26) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18907957651)
- ✅ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) has successfully built against this PR. (2025-10-29 15:39:23) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18911639348)
- ✅ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) has successfully built against this PR. (2025-10-30 09:10:05) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18933972119)
- ❌ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) built against this PR, but testing failed. (2025-10-30 10:52:43) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18936580915)
- ❌ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) built against this PR, but testing failed. (2025-10-31 16:12:34) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18976658638)
- ✅ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) has successfully built against this PR. (2025-11-11 16:06:19) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19271146128)
- ✅ Mathlib branch [lean-pr-testing-10952](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10952) has successfully built against this PR. (2025-11-12 13:03:35) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19296875436)

File: src/Init/Data/Iterators/Consumers/Loop.lean [hunk 1]
```diff
@@ -255,28 +255,52 @@ def Iter.Partial.find? {α β : Type w} [Iterator α Id β] [IteratorLoopPartial
...
   Id.run (it.findM? (pure <| .up <| f ·))
 
-@[always_inline, inline, expose, inherit_doc IterM.size]
-def Iter.size {α : Type w} {β : Type w} [Iterator α Id β] [IteratorSize α Id]
+/--
+Steps through the whole iterator, counting the number of outputs emitted.
+
+**Performance**:
+
+linear in the number of steps taken by the iterator
```
Comment (TwoFX) [inline src/Init/Data/Iterators/Consumers/Loop.lean]: My guess would be that the documentation style guide would want us to start paragraphs with a capital letter, though I'll admit that I haven't checked whether this is explicitly written down there.

File: src/Init/Data/Iterators/Consumers/Monadic/Loop.lean [hunk 2]
```diff
@@ -633,86 +612,76 @@ def IterM.Partial.find? {α β : Type w} {m : Type w → Type w'} [Monad m] [Ite
     m (Option β) :=
   it.findM? (pure <| .up <| f ·)
 
-section Size
+section Count
 
 /--
 This is the implementation of the default instance `IteratorSize.defaultImplementation`.
```
Comment (TwoFX) [inline src/Init/Data/Iterators/Consumers/Monadic/Loop.lean]: This docstring seems to be out of date.

File: src/Init/Data/Iterators/Consumers/Loop.lean [hunk 3]
```diff
@@ -255,28 +255,52 @@ def Iter.Partial.find? {α β : Type w} [Iterator α Id β] [IteratorLoopPartial
...
+-/
+@[always_inline, inline, expose]
+def Iter.Partial.count {α : Type w} {β : Type w} [Iterator α Id β] [IteratorLoopPartial α Id Id]
+    (it : Iter.Partial (α := α) β) : Nat :=
+  it.it.toIterM.allowNontermination.count.run.down
```
Comment (TwoFX) [inline src/Init/Data/Iterators/Consumers/Loop.lean:292]: Are you creating merge conflicts with one of your extrinsic fixpoint PRs here?

File: src/Init/Data/Iterators/Lemmas/Combinators/Monadic/ULift.lean [hunk 4]
```diff
@@ -63,4 +64,20 @@ theorem IterM.toArray_uLift [Iterator α m β] [Monad m] [Monad n] {it : IterM (
   rw [← toArray_toList, ← toArray_toList, toList_uLift, monadLift_map]
   simp
 
+@[simp]
```
Comment (TwoFX) [inline src/Init/Data/Iterators/Lemmas/Combinators/Monadic/ULift.lean:67]: Just double-checking that this should really be a `simp` lemma.

File: src/Std/Data/Iterators/Lemmas/Producers/Range.lean [hunk 5]
```diff
@@ -7,64 +7,191 @@ module
...
  rfl
 
+@[simp]
+theorem Rcc.toArray_iter_eq_toArray [LE α] [DecidableLE α] [UpwardEnumerable α]
+    [LawfulUpwardEnumerableLE α] [Rxc.IsAlwaysFinite α] [LawfulUpwardEnumerable α] {r : Rcc α} :
+    r.iter.toArray = r.toArray := by
+ rfl
+
+@[simp]
+theorem Rcc.count_iter_eq_count [LE α] [DecidableLE α] [UpwardEnumerable α]
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Producers/Range.lean]: `count_iter` or `count_iter_eq_size`

File: src/Std/Data/Iterators/Lemmas/Producers/Slice.lean [hunk 6]
```diff
@@ -27,10 +27,13 @@ theorem iter_eq_toIteratorIter {γ : Type u} {s : Slice γ}
     s.iter = ToIterator.iter s := by
   simp [Internal.iter_eq_iter, Internal.iter_eq_toIteratorIter]
 
-theorem size_eq_size_iter {s : Slice γ} [ToIterator s Id β]
-    [Iterator (ToIterator.State s Id) Id β] [IteratorSize (ToIterator.State s Id) Id] :
-    s.size = s.iter.size := by
-  simp [Internal.iter_eq_iter, Internal.size_eq_size_iter]
+theorem size_eq_size_iter [∀ s : Slice γ, ToIterator s Id β]
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Producers/Slice.lean]: `size_eq_count_iter`

File: src/Init/Data/Iterators/Consumers/Loop.lean (hunk 3 above)
Comment (datokrat) [reply src/Init/Data/Iterators/Consumers/Loop.lean:292]: Minor ones, but I found it a bad idea to base this PR on another one with a less certain future.

File: src/Init/Data/Iterators/Lemmas/Combinators/Monadic/ULift.lean (hunk 4 above)
Comment (datokrat) [reply src/Init/Data/Iterators/Lemmas/Combinators/Monadic/ULift.lean:67]: It's not crystal clear, but I think this should be a simp lemma: The idea is that `simp` should pull `toList` to the inside whenever possible. It doesn't look as nice as other such lemmas, but I think it is still worth it.
